US07560551B2
To a slurry of furan-2-carboxylic acid (10.0 g, 89 mmol) in 100 mL DCM at 0° C. under nitrogen was added DMF (0.069 ml, 0.89 mmol) and oxalyl chloride (9.9 ml, 112 mmol) slowly in small portions over 5 min. The reaction was allowed to warm to ambient temperature. After 3 h, the clear solution was concentrated in vacuo and the resulting oil was dissolved in 75 mL THF and cooled to 0° C. A solution of tert-butylamine (28 ml, 268 mmol) in 25 mL THF was added dropwise over 1 h. The bath was allowed to expire and the slurry was stirred over the weekend. The reaction was concentrated in vacuo and partitioned between 1N NaOH and DCM. The aqueous layer was extracted twice with DCM. The combined organic layers were concentrated in vacuo to give N-tert-butylfuran-2-carboxamide as a white solid. MS m/z=168 [M+H]+. Calc'd for C9H13NO2: 167.2.

reactant | furan-2-carboxylic acid | 89 mmol, 10.0 g | O1C(=CC=C1)C(=O)O | C5H4O3
reactant | DMF | 0.89 mmol, 0.069 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 112 mmol, 9.9 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tert-butylamine | 268 mmol, 28 ml | C(C)(C)(C)N | C4H11N
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-tert-butylfuran-2-carboxamide | C(C)(C)(C)NC(=O)C=1OC=CC1 | C9H13NO2
